US06114390
b) 4-[[[(1,1-Dimethylethoxy)carbonyl]amino]methyl]benzene-ethanamine
A mixture of 10.0 g (38.1 mMol) of 4-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]benzenepropanamide, 18.5 g (43 mMol) of I,I-bis-(trifluoroacetoxy)iodobenzene, 100 ml of acetonitrile and 20 ml of water was stirred for 8 hours at a reaction temperature of 40° C. A further 2.5 g of I,I-bis-(trifluoroacetoxy)iodobenzene were added and the mixture was again kept at 40° C. for 6 hours. The acetonitrile was distilled off in vacuo, the residue was taken up in 200 ml of water, then filtered, the filtrate was extracted once with 50 ml of diethylether and then made alkaline with sodium hydroxide. The alkaline aqueous phase was extracted three times with 100 ml of dichloromethane, the combined dichloromethane extracts were dried over sodium sulphate and freed from solvent in vacuo. The residue was purified by column chromatograph on silica gel (Macherey-Nagel, 35-70 mesh ASTM) using first of all tert.butyl-methylether and then tert.butylmethylether/methanol/conc. aqueous ammonia=9/1/0.3 (v/v/v) as eluant. 4.5 g (50% of theory) of a colourless oil were obtained.

reactant | 4-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]benzenepropanamide | 38.1 mMol, 10.0 g | CC(C)(OC(=O)NCC1=CC=C(C=C1)CCC(=O)N)C | C15H22N2O3
reactant | I,I-bis-(trifluoroacetoxy)iodobenzene | 43 mMol, 18.5 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | I,I-bis-(trifluoroacetoxy)iodobenzene | 2.5 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
solvent | water | 20 ml | O | H2O
product | 4-[[[(1,1-Dimethylethoxy)carbonyl]amino]methyl]benzene-ethanamine | CC(C)(OC(=O)NCC1=CC=C(C=C1)CCN)C | C14H22N2O2
